US07612114B2
(R)-6-{2-{[4-(1-Aminocyclopentylmethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and tert-butyl [1-(4-formylphenoxymethyl)cyclopentyl]carbamate (74 mg) according to an analogous synthetic method to Example 238 and purified by LC-MS, the title compound (16 mg) was obtained.

reactant | pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)NC1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | tert-butyl [1-(4-formylphenoxymethyl)cyclopentyl]carbamate | 74 mg | C(=O)C1=CC=C(OCC2(CCCC2)NC(OC(C)(C)C)=O)C=C1 | C18H25NO4
product | (R)-6-{2-{[4-(1-Aminocyclopentylmethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 16 mg | NC1(CCCC1)COC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1 | C32H40N2O3
